US07196087B2
1-(3-Fluoro-benzyl)-7-methoxy-5-piperazin-1-yl-3,4-dihydro-1H-quinazolin-2-one
4-[1-(3-Fluoro-benzyl)-7-methoxy-2-oxo-1,2,3,4-tetrahydro-quinazolin-5-yl]-piperazine-1-carboxylic acid tert-butyl ester (43 mg) was dissolved in 4 mL 2N HCl/ethanol and heated to 80° C. for 20 minutes. The reaction mixture was cooled to room temperature, and ether was added, precipitating 18 mg of 1-(3-fluoro-benzyl)-7-methoxy-5-piperazin-1-yl-3,4-dihydro-1H-quinazolin-2-one. MS: 371 (M+H)+.

reactant | 4-[1-(3-Fluoro-benzyl)-7-methoxy-2-oxo-1,2,3,4-tetrahydro-quinazolin-5-yl]-piperazine-1-carboxylic acid tert-butyl ester | 43 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2CNC(N(C2=CC(=C1)OC)CC1=CC(=CC=C1)F)=O | C25H31FN4O4
reactant | ether | CCOCC | C4H10O
solvent | HCl ethanol | 2N, 4 mL | Cl.C(C)O
product | 1-(3-Fluoro-benzyl)-7-methoxy-5-piperazin-1-yl-3,4-dihydro-1H-quinazolin-2-one | FC=1C=C(CN2C(NCC3=C(C=C(C=C23)OC)N2CCNCC2)=O)C=CC1 | C20H23FN4O2
